US07754737B2
(S)-tert-Butyl 1-(4,4-difluorocyclohexyl)-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamate (6.25 g, 0.0139 mol) was dissolved in a minimal volume of ether (100 mL) and added to a solution of toluenesulfonic acid (2.71 g, 0.0142 mol) in absolute EtOH (20 mL). This solution was placed on a rotary evaporator and the Et2O was removed at ambient temp. The flask was then lowered into the water bath (temperature: 60° C.) and the selective removal of the Boc group proceeded concurrently with removal of the remainder of solvent. The reaction was completed by 2 h and gave a white solid, which was washed with hexanes:EtOAc (5:1, v/v, 3×10 mL), basified with 1N NaOH (pH>10), and extracted with Et2O (3×50 mL) The combined Et2O extracts were washed with 1N aq NaOH (3×5 mL), brine (3×5 mL), dried, decanted and stripped to give the free base (S)-2-(trimethylsilyl)ethyl 2-amino-3-(4,4-difluorocyclohexyl)propyl(methyl)carbamate (3.68 g, 76%). 1H NMR (400 MHz, CD3OD): 4.17 (t, J=8.4 Hz, 2H), 3.15 (m, 1H), 2.93 (s, 3H), 2.61 (dd, J=12.0 & 4.0 Hz, 1H), 2.36 (dd, J=12.0 & 8.4 Hz, 1H), 2.12-1.16 (m, 11H), 1.00 (t, J=8.4 Hz, 2H), 0.04 (s, 9H); MS (E/Z): 351 (M+H+).

reactant | (S)-tert-Butyl 1-(4,4-difluorocyclohexyl)-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamate | 0.0139 mol, 6.25 g | FC1(CCC(CC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(OC(C)(C)C)=O)F | C21H40F2N2O4Si
reactant | toluenesulfonic acid | 0.0142 mol, 2.71 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | EtOH | 20 mL | CCO | C2H6O
product | (S)-2-(trimethylsilyl)ethyl 2-amino-3-(4,4-difluorocyclohexyl)propyl(methyl)carbamate | 3.68 g, 76% | N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCC(CC1)(F)F | C16H32F2N2O2Si
